US08558028B2
Preparation of 1- (3-(1-(2-(4-Chlorophenoxy)phenylamino)ethyl)phenyl)pyrrolidin-2-one
2-(4-Chlorophenoxy)aniline (245 mg, 1.118 mmol, 1 eq) and 1-acetyl-N-(3-acetylphenyl)-N-ethylpiperidine-4-carboxamide (250 mg, 1.230 mmol, 1.1 eq) were stirred in dry dichloromethane (DCM) (2 mL) at room temperature for 10 min. Tri-isopropoxytitanium chloride (534 μL, 2.236 mmol, 2 eq) was added to the reaction mixture which was stirred at room temperature for 16 hours. Sodium triacetoxyborohydride (947 mg, 4.472 mmol, 4 eq) was then added to the reaction mixture and was stirred at room temperature for a further 24 h. The reaction mixture was then poured into saturated aqueous sodium bicarbonate (100 mL) and extracted with DCM (120 mL). The organic layer was washed with brine (120 mL), dried over MgSO4, filtered and concentrated to give the crude as a yellow oil. Purification of the crude by flash chromatography (ISCO) eluting with a gradient [0-10% MeOH/DCM] gave (437 mg, 91%) as a pale yellow oil. 1H NMR (270 MHz, CDCl3) δ 1.45 (3H, d, J=8.1 Hz, CH3), 2.02-2.18 (2H, m, CH2), 2.58 (2H, t, J=10.8 Hz, CH2), 3.77 (2H, t, J=9.7 Hz, CH2), 4.50 (2H, m, NH and CH), 6.47-6.62 (2H, m, Ar) 6.77-6.96 (4H, m, Ar), 7.09 (1H, d, J=8.1 Hz, Ar), 7.22-7.32 (3H, m, Ar), 7.48 (1H, dd, J=2.4, 8.1 Hz, Ar), 7.59 (1H, m, Ar). LCMS (90% MeOH and 10% H2O; Symmetry C18 reverse phase column) tr=2.73 min; (ES+), m/z 407.2. HPLC 98.56% purity.

reactant | 2-(4-Chlorophenoxy)aniline | 1.118 mmol, 245 mg, 1 eq | ClC1=CC=C(OC2=C(N)C=CC=C2)C=C1 | C12H10ClNO
reactant | 1-acetyl-N-(3-acetylphenyl)-N-ethylpiperidine-4-carboxamide | 1.230 mmol, 250 mg, 1.1 eq | C(C)(=O)N1CCC(CC1)C(=O)N(CC)C1=CC(=CC=C1)C(C)=O | C18H24N2O3
reactant | Sodium triacetoxyborohydride | 4.472 mmol, 947 mg, 4 eq | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium bicarbonate | 100 mL | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
catalyst | Tri-isopropoxytitanium chloride | 2.236 mmol, 534 μL, 2 eq | [Cl-].C(C)(C)O[Ti+](OC(C)C)OC(C)C
solvent | H2O | O | H2O
solvent | MeOH | CO | CH4O
product | 1- (3-(1-(2-(4-Chlorophenoxy)phenylamino)ethyl)phenyl)pyrrolidin-2-one | ClC1=CC=C(OC2=C(C=CC=C2)NC(C)C=2C=C(C=CC2)N2C(CCC2)=O)C=C1 | C24H23ClN2O2
